US09107916B2
A. 2-[5-[(2,4-dimethylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2,4-dimethylphenyl)methanol according to the procedure for the preparation of Example 39, part C. [M+H] Calc'd for C18H16N4O, 305. Found, 305.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2,4-dimethylphenyl)methanol | CC1=C(C=CC(=C1)C)CO | C9H12O
product | 2-[5-[(2,4-dimethylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | CC1=C(C=CC(=C1)C)COC1=CC=NN1C1=NC=CC(=C1)C#N | C18H16N4O
